US08293772B2
2-(3-Azido-propoxy)-tetrahydro-pyran (compound 409)
A mixture of 2-(3-chloro-propoxy)-tetrahydro-pyran (6.28 g, 35.2 mmol), NaN3 (11.4 g, 176 mmol) and potassium iodide (584 mg, 3.52 mmol) in DMF (50 mL) was stirred at RT for 18 h. The reaction mixture was poured into a mixture of Et2O/water. The organic phase was washed with water, brine and then dried (MgSO4), filtered and concentrated in vacuo to give the crude product. The crude product was purified by continuous gradient flash chromatography using EtOAc/petroleum ether (40-60) 0:100 to 15:85 as the eluent to afford the title compound as colourless oil.

reactant | 2-(3-chloro-propoxy)-tetrahydro-pyran | 35.2 mmol, 6.28 g | ClCCCOC1OCCCC1 | C8H15ClO2
reactant | NaN3 | 176 mmol, 11.4 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium iodide | 3.52 mmol, 584 mg | [I-].[K+]
reactant | Et2O water | CCOCC.O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(3-Azido-propoxy)-tetrahydro-pyran | N(=[N+]=[N-])CCCOC1OCCCC1 | C8H15N3O2
